US05152824
17.1 g (342 mmol) of hydrazine monohydrate was dissolved in 500 ml of methanol. Then, 50 g (342 mmol) of trans-4-phenyl-3-buten-2-one dissolved in 100 ml of methanol was gradually dropwise added thereto under stirring within a range of from 5° C. to 15° C. Then, the mixture was stirred at room temperature for 30 hours, and methanol was distilled off under reduced pressure. The residue was distilled under reduced pressure to obtain 41.0 g of the desired 3-methyl-5-phenyl-2-pyrazoline.

reactant | hydrazine monohydrate | 342 mmol, 17.1 g | O.NN
reactant | trans-4-phenyl-3-buten-2-one | 342 mmol, 50 g | C1(=CC=CC=C1)/C=C/C(C)=O | C10H10O
solvent | methanol | 500 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 3-methyl-5-phenyl-2-pyrazoline | 41.0 g | CC1=NNC(C1)C1=CC=CC=C1 | C10H12N2
